US08729095B2
To an N,N-dimethylformamide solution (200 ml) of benzyl 3-fluoro-2′-hydroxybiphenyl-4-carboxylate (14.8 g) was added at room temperature cesium carbonate (37.5 g), followed by stirring for 30 minutes. To this was added an N,N-dimethylformamide solution (200 ml) of tert-butyl 3-bromo-2,2-dimethylpropanoate (27.2 g), followed by stirring at 60° C. for 3 days. After the reaction solution was concentrated under reduced pressure, water and ethyl acetate were added to the residue, and the solution was separated. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford benzyl 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-fluorobiphenyl-4-carboxylate (15.0 g).

reactant | benzyl 3-fluoro-2′-hydroxybiphenyl-4-carboxylate | 14.8 g | FC=1C=C(C=CC1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)O | C20H15FO3
reactant | cesium carbonate | 37.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 3-bromo-2,2-dimethylpropanoate | 27.2 g | BrCC(C(=O)OC(C)(C)C)(C)C | C9H17BrO2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | benzyl 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-fluorobiphenyl-4-carboxylate | 15.0 g | C(C)(C)(C)OC(C(COC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)F)(C)C)=O | C29H31FO5
